US07307107B2
A mixed solution of 231.48 g (1.50 mol) of bis(2-mercaptoethyl) sulfide and 1000 g of toluene was heated at 110° C. and thereinto was dropped 457.09 g (3.60 mol) of 3-chloropropano yl chloride over 2 hours. When all was dropped, the reaction mixture was further stirred for another 7 hours at 110° C., while by-product hydrogen chloride was removed out of the reaction system under nitrogen stream. Then no raw material existing in the high performance liquid chromatography (hereinafter referred to as HPLC analysis) was confirmed, and the reaction solution was cooled down to room temperature. The reaction mixture was discharged in 5000 g of 5% sodium bicarbonate aqueous solution (corresponding to 3.0 mol as sodium bicarbonate), thereto was further added 1000 g of toluene, and the reaction product was extracted. An organic layer was repeatedly washed using the ion exchange water until a drainage layer was neutralized. Then, the organic layer was taken out by separation, and then toluene was removed at 30° C. under reduced pressure and concentrated to obtain 476.54 g of a coarse composition of a colorless and transparent liquid, i.e., bis[2-(3-chloropropionylthio)ethyl]sulfide. The purity of the coarse composition was 95% (HPLC analysis by the internal standard method) and the yield was 90% (purity conversion).

reactant | bis(2-mercaptoethyl) sulfide | 1.50 mol, 231.48 g | SCCSCCS | C4H10S3
reactant | 3-chloropropano yl chloride | 3.60 mol, 457.09 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | hydrogen chloride | Cl | ClH
reactant | sodium bicarbonate | 3.0 mol, 5000 g | C([O-])(O)=O.[Na+]
reactant | toluene | 1000 g | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 1000 g | C1(=CC=CC=C1)C | C7H8
product | bis[2-(3-chloropropionylthio)ethyl]sulfide | yield was 90% | ClCCC(=O)SCCSCCSC(CCCl)=O | C10H16Cl2O2S3
